US05147893
trans-2-[[2-[[3,5-bis(1,1-Dimethylethyl)-4-hydroxyphenyl]thio]cyclohexyl]thio]-N-methyl-N-(2-pyridinylethyl)acetamide
Oxalyl chloride (0.13 g, 0.00105 moles) was added to a cold (10° C.) solution of trans-[[2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]cyclohexyl]thio]acetic acid (0.39 g, 0.00095 mole) in benzene (50 ml). The cold bath was removed and the reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was concentrated in vacuo to an oil. The oil was dissolved in toluene (50 ml) and then concentrated once again. The process was repeated using tetrahydrofuran (25 ml) in place of toluene. To a solution of the oil in tetrahydrofuran (50 ml) was added 2-(2-methylaminoethyl) pyridine (0.13 g, 0.00095 moles) and triethylamine (1 ml) and the reaction mixture was stirred at room temperature for 44 hours. After removal of the while solid precipitate by filtration, the filtrate was concentrated to give the crude product as an oil. The product was purified by silica gel chromatography. The resulting oil was heated in vacuo at 100° C. for 3 hours to remove traces of solvent. The structure assignment was supported by NMR, infrared spectroscopy and elemental analysis.

reactant | Oxalyl chloride | 0.00105 moles, 0.13 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trans-[[2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]cyclohexyl]thio]acetic acid | 0.00095 mole, 0.39 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S[C@H]1[C@@H](CCCC1)SCC(=O)O | C22H34O3S2
reactant | 2-(2-methylaminoethyl) pyridine | 0.00095 moles, 0.13 g | CNCCC1=NC=CC=C1 | C8H12N2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | trans-2-[[2-[[3,5-bis(1,1-Dimethylethyl)-4-hydroxyphenyl]thio]cyclohexyl]thio]-N-methyl-N-(2-pyridinylethyl)acetamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S[C@H]1[C@@H](CCCC1)SCC(=O)N(CCC1=NC=CC=C1)C | C30H44N2O2S2
